Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Shortness of breath
 
Major Surgical or Invasive Procedure:
There were no major surgical or invasive procedures during 
hospitalization. 

 
History of Present Illness:
Ms. ___ is a ___ lady with a PMH notable for 
dementia, blindness, CKD, and hypertension, who presented to the 
___ office for evaluation of cough and dyspnea with activity. 
She was sent to the ED due to concern for pneumonia.  
 
Given the patient's dementia, the history was obtained from the 
patient's daughter. The patient started feeling ill about a few 
weeks ago when she had a sore throat and congestion. The 
symptoms improved, but ever since then, she has been eating less 
and appeared more fatigued. She also had a cough and some 
dyspnea. Because of these concerns, she went to see her PCP. 
During the episodic visit, she was found to be somnolent with 
abnormal lung exam. She was sent to the ED for evaluation.  
 
In the ___ ED, she was diagnosed with a left lower lobe 
pneumonia on chest x-ray. She was given ceftriaxone and 
azithromycin and admitted to the medicine service.  

On arrival to the floor, patient reports feeling ok, though she 
was unable to provide any history or participate in a full 
review of systems, which was obtained through her daughter, with 
whom she lives.
 
Past Medical History:
- Dementia  
- CKD  
- Hypertension  
- Hypercholesterolemia  
- Blindness, since childhood 
 
Social History:
___
Family History:
Non-contributory. 
 
Physical Exam:
ADMISSION PHYSICAL EXAM
=======================
Vital Signs: T 100.0, BP 141/68, HR 94, RR 24, SAT 95% RA  
General: Alert, not oriented to place or time, no acute distress 
 
HEENT: Sclerae anicteric, MMM, oropharynx clear, wearing dark 
sunglasses, patient is blind, neck supple, JVP not elevated  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Lungs: Clear to auscultation bilaterally, normal work of 
breathing  
Abdomen: Soft, non-tender, non-distended   
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: Grossly nonfocal  

DISCHARGE PHYSICAL EXAM
=======================
Vitals: 98.6, 133/77, 89, 22, 94% on RA. 
General: Alert, oriented to self.  
HEENT: Sclerae anicteric, MMM, oropharynx clear.
CV: Regular rate and rhythm, normal S1 + S2, no murmurs.  
Lungs: Clear to auscultation, no wheezing.  
Abdomen: Soft, non-tender, non-distended  
Ext: Warm, well perfused, no lower extremity edema. 
 
Pertinent Results:
ADMISSION LABS
==============
___ 09:43PM BLOOD WBC-11.9* RBC-3.60* Hgb-10.9* Hct-33.7* 
MCV-94 MCH-30.3 MCHC-32.3 RDW-12.8 RDWSD-44.2 Plt ___
___ 09:43PM BLOOD Neuts-55.2 ___ Monos-10.6 
Eos-0.8* Baso-0.8 Im ___ AbsNeut-6.55*# AbsLymp-3.80* 
AbsMono-1.26* AbsEos-0.09 AbsBaso-0.09*
___ 09:43PM BLOOD Glucose-105* UreaN-21* Creat-1.3* Na-135 
K-4.8 Cl-99 HCO3-23 AnGap-18
___ 09:43PM BLOOD Calcium-8.8 Phos-3.2 Mg-2.5
___ 10:01PM BLOOD Lactate-0.9

DISCHARGE LABS
==============
___ 05:40AM BLOOD WBC-10.2* RBC-3.58* Hgb-11.1* Hct-33.9* 
MCV-95 MCH-31.0 MCHC-32.7 RDW-13.0 RDWSD-45.0 Plt ___
___ 05:40AM BLOOD Glucose-92 UreaN-18 Creat-1.3* Na-134 
K-4.1 Cl-97 HCO3-25 AnGap-16
___ 05:40AM BLOOD Calcium-8.6 Phos-3.0 Mg-2.3

MICROBIOLOGY
============
___: BLOOD CULTURE X 2: PENDING.
___ 8:22 am URINE      Source: ___. 
                            **FINAL REPORT ___
   Legionella Urinary Antigen  (Final ___: 
      NEGATIVE FOR LEGIONELLA SEROGROUP 1 ANTIGEN. 

IMAGING
=======
___: CHEST X-RAY (PA AND LATERAL)
FINDINGS: 
New opacity is identified in the left lower lobe.  Enlarged 
cardiomediastinal silhouette is similar to before.  There is no 
pneumothorax or pleural effusion. Dextroscoliosis of the 
thoracic spine is noted.
 
IMPRESSION: 
New left lower lobe opacity may be pneumonia.
 
Brief Hospital Course:
Ms. ___ is a ___ lady with a PMH notable for 
dementia, blindness, CKD, and hypertension, who presented with 
anorexia and cough, found to have a pneumonia.

# Community acquired pneumonia: presented with decreased PO 
intake, sedation, with CXR showing pneumonia. She was treated 
with ceftriaxone and azithromycin during hospitalization. After 
receiving two doses of ceftriaxone and azithromycin, she 
significantly improved. Her appetite increased and she was able 
to ambulate the hallway on room air. After discussion with 
family, family believed Ms. ___ was back to her baseline 
and agreed with discharge home. She was discharged with an 
additional 5 days of levofloxacin at the time of discharge.

She was continued on benzonatate and guaifenesin for cough 
suppression. 

# Hypertension: Continued labetalol 100 mg PO BID and amlodipine 
5 mg PO daily.

# History of Blindness: Ms. ___ may benefit from use of 
melatonin as an outpatient given history of sundowning with her 
history of blindness. 

TRANSITIONAL ISSUES
===================
[] Please repeat CXR as an outpatient in 6 weeks to assess for 
resolution of new left lower lobe opacity. 
[] Please continue levofloxacin with end date ___ 
(500 mg EVERY OTHER DAY, take on ___. 
[] Consider use of melatonin for sleep given patient's 
blindness.
[] Contact Information: ___ (daughter, ___  
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. amLODIPine 5 mg PO DAILY 
2. Furosemide 20 mg PO DAILY:PRN ankle swelling 
3. Labetalol 100 mg PO BID 
4. Aspirin 81 mg PO DAILY 
5. Acetaminophen 650 mg PO Q6H:PRN Pain - Mild 
6. Aspercreme (trolamine salicylate) 10 % topical DAILY:PRN 

 
Discharge Medications:
1.  Benzonatate 100 mg PO TID:PRN cough 
RX *benzonatate 100 mg 1 capsule(s) by mouth three times a day 
Disp #*28 Capsule Refills:*0 
2.  GuaiFENesin ER 600 mg PO Q12H 
RX *guaifenesin 600 mg 1 tablet(s) by mouth every twelve (12) 
hours Disp #*28 Tablet Refills:*0 
3.  Levofloxacin 500 mg PO Q48H 
RX *levofloxacin 500 mg 1 tablet(s) by mouth EVERY OTHER DAY 
Disp #*3 Tablet Refills:*0 
4.  Acetaminophen 650 mg PO Q6H:PRN Pain - Mild  
5.  amLODIPine 5 mg PO DAILY  
6.  Aspercreme (trolamine salicylate) 10 % topical DAILY:PRN  
7.  Aspirin 81 mg PO DAILY  
8.  Furosemide 20 mg PO DAILY:PRN ankle swelling  
9.  Labetalol 100 mg PO BID  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS
=================
-Community Acquired Pneumonia
-Dementia
-CKD
-Hypertension
-Blindness

 
Discharge Condition:
Level of Consciousness: Alert and interactive.
Mental Status: Confused - sometimes.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear Ms. ___,

You were admitted to ___ due to 
shortness of breath. You were diagnosed with a pneumonia. You 
were treated with intravenous antibiotics which were 
transitioned to oral antibiotics.

Please take levofloxacin 500 milligrams by mouth EVERY OTHER 
DAY. Please take on ___. 

You will require a repeat chest x-ray in 6 weeks to ensure 
resolution of the pneumonia.

Please follow up with your primary care physician within one 
week of discharge from the hospital.

It was a pleasure taking care of your during your 
hospitalization! We wish you all the best!

Sincerely,
Your ___ Care Team
 
Followup Instructions:
___